US07851473B2
4-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]-N-pyridazin-3-ylpiperidine-1-carboxamide
A mixture of 2,2,2-trichloroethyl pyridazin-3-ylcarbamate (170 mg, 0.629 mmol), 4-[4-(4-fluorophenyl)-1,3-thiazol-2-yl]piperidine (150 mg, 0.572 mmol) and diisopropylethylamine (0.199 ml, 1.14 mmol) in dimethylsulfoxide (2.0 ml) was stirred at 70° C. for 6 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give the desired product (127 mg, 58.0%) as a solid.

reactant | 2,2,2-trichloroethyl pyridazin-3-ylcarbamate | 0.629 mmol, 170 mg | N1=NC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H6Cl3N3O2
reactant | 4-[4-(4-fluorophenyl)-1,3-thiazol-2-yl]piperidine | 0.572 mmol, 150 mg | FC1=CC=C(C=C1)C=1N=C(SC1)C1CCNCC1 | C14H15FN2S
reactant | diisopropylethylamine | 1.14 mmol, 0.199 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.0 ml | CS(=O)C | C2H6OS
product | 4-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]-N-pyridazin-3-ylpiperidine-1-carboxamide | 127 mg, 58.0% | FC1=CC=C(C=C1)C=1N=C(SC1)C1CCN(CC1)C(=O)NC=1N=NC=CC1 | C19H18FN5OS
